US08067448B2
(R)-4-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoic acid
To a 25 mL round-bottomed flask equipped with a magnetic stir bar and a septum was added (R)-2-(3-chloro-4-cyano-2-methylphenylamino)-4-hydroxybutanoic acid (1.49 g, 5.55 mmol). This was dissolved in dry DMF (68 mL) under an atmosphere of nitrogen. This mixture was cooled to 0° C. followed by addition of imidazole (3.02 g, 44.36 mmol) and TBDMSCl (4.18 g, 27.75 mmol). The reaction was allowed to slowly warm to room temperature overnight quenched by slow addition of aqueous ammonium chloride (sat) (60 mL). The solution was extracted with EtOAc (3×100 mL). The combined organic extracts were washed with (5%) aqueous citric acid (100 mL) (×2), water (80 mL) then dried over Na2SO4, filtered, and concentrated under reduced pressure to reveal a yellow oil (4.2 g). This material was used directly in the next step.

reactant | (R)-2-(3-chloro-4-cyano-2-methylphenylamino)-4-hydroxybutanoic acid | 5.55 mmol, 1.49 g | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)O)CCO)C | C12H13ClN2O3
reactant | imidazole | 44.36 mmol, 3.02 g | N1C=NC=C1 | C3H4N2
reactant | TBDMSCl | 27.75 mmol, 4.18 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 68 mL | CN(C)C=O | C3H7NO
product | (R)-4-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoic acid | [Si](C)(C)(C(C)(C)C)OCC[C@H](C(=O)O)NC1=C(C(=C(C=C1)C#N)Cl)C | C18H27ClN2O3Si
